US03957763
Following the procedure of Example 9, 3,7,9-trimethyl-1,6-decadien-3-ol and phosphorus tribromide are reacted to form 1-bromo-3,7,9-trimethyl-2,6-decadiene.

reactant | 3,7,9-trimethyl-1,6-decadien-3-ol | CC(C=C)(CCC=C(CC(C)C)C)O | C13H24O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 1-bromo-3,7,9-trimethyl-2,6-decadiene | BrCC=C(CCC=C(CC(C)C)C)C | C13H23Br
